US09102591B2
Thionyl chloride (40.3 mL, 554 mmol) was slowly added to a solution of (6-trifluoromethylpyridin-3-yl)-methanol (19.6 g, 111 mmol) in DCM (195 mL) at room temperature under nitrogen. The reaction mixture was stirred at reflux for 16 hours then concentrated under reduced pressure. The residue was dissolved in AcOEt (200 mL), washed with saturated aqueous sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to give crude 5-chloromethyl-2-trifluoromethylpyridine as a brown oil which was used in the following step without further purification (19.5 g, 90%). 1H NMR (400 MHz, CDCl3) δ ppm 8.74 (s, 1 H), 7.94 (d, J=8.4 Hz, 1 H), 7.72 (d, J=8.4 Hz 1H), 4.66 (s, 2 H). 19F NMR (400 MHz, CDCl3) δ 168 cm−1. MS m/z 196.15; 198.09

reactant | Thionyl chloride | 554 mmol, 40.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (6-trifluoromethylpyridin-3-yl)-methanol | 111 mmol, 19.6 g | FC(C1=CC=C(C=N1)CO)(F)F | C7H6F3NO
solvent | DCM | 195 mL | C(Cl)Cl | CH2Cl2
product | 5-chloromethyl-2-trifluoromethylpyridine | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
